US09371320B2
B) 4-(3-cyclopentyl-7-oxo-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxamide
To a solution of 4-(3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxamide (60 mg) in acetonitrile (5 mL) were added sodium iodide (52.5 mg) and chloro(trimethyl)silane (0.111 mL), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by HPLC (L-Column 2 ODS, mobile phase: water/acetonitrile (containing 0.1% trifluoroacetic acid)), to the obtained fraction was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate and THF. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The suspension of the residue in ethanol was stirred at 100° C. for 2 hr, allowed to be cooled to room temperature, and the solid was washed with ethanol to give the title compound (35 mg).

reactant | 4-(3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxamide | 60 mg | C1(CCCC1)C1=NN(C2=C(N=CC=C21)OC)C=2C=C(SC2)C(=O)N | C17H18N4O2S
reactant | sodium iodide | 52.5 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.111 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-(3-cyclopentyl-7-oxo-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxamide | 35 mg | C1(CCCC1)C1=NN(C=2C(NC=CC21)=O)C=2C=C(SC2)C(=O)N | C16H16N4O2S
